US07074819B2
Step 1) Synthesis of (3RS,4RS)-4-[9-(4-cyanobutylthio)nonyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman
To a solution of 4-cyanobutyl thioacetate (613 mg, 3.90 mmol) in methanol (10 ml) and was added 1M sodium methoxide (3.06 ml) and stirred at room temperature for 1 h. Then (3RS,4RS)-4-(9-methansulfonyloxynonyl)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman (290 mg, 0.557 mmol) dissolved in dry tetrahydrofuran (5 ml) was added dropwise thereto at room temperature and stirred overnight. When the reaction was completed, water was added to the reaction solution which was then extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure and flash chromatographed on silica gel (n-hexane:ethyl acetate=8:2) to give 495 mg (165%, contains the 4-cyanobutan-1-thiol) of the title compound as a colorless oil.

reactant | 4-cyanobutyl thioacetate | 3.90 mmol, 613 mg | C(C)(=S)OCCCCC#N | C7H11NOS
reactant | sodium methoxide | 1M, 3.06 ml | C[O-].[Na+]
reactant | (3RS,4RS)-4-(9-methansulfonyloxynonyl)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 0.557 mmol, 290 mg | CS(=O)(=O)OCCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C28H40O5S2
reactant | 4-cyanobutan-1-thiol | C(#N)CCCCS | C5H9NS
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (3RS,4RS)-4-[9-(4-cyanobutylthio)nonyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | C(#N)CCCCSCCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C32H45NO2S2
